US07049444B2
N-[5-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-nitrophenyl]-acetamide
To a solution of N-[3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]acetamide (Preparation 45, 1.5 g, 4.78 mmol) in acetonitrile (20 ml) at 0° C. was added nitronium tetrafluoroborate (1.0 g, 7.53 mmol) in several portions over 5 minutes. The mixture was stirred at 0° C. for 30 minutes and then saturated sodium hydrogen carbonate solution (30 ml) was added. The aqueous mixture was extracted with ethyl acetate (3×15 ml) and the combined extracts were dried (MgSO4), filtered and concentrated in vacuo. The crude residue was purified by silica column chromatography eluting with ethyl acetate:hexane (50:50) to afford the title compound (534 mg, 32%) as pale yellow platelets.

reactant | N-[3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenyl]acetamide | 4.78 mmol, 1.5 g | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NC(C)=O | C20H30N2O
reactant | nitronium tetrafluoroborate | 7.53 mmol, 1.0 g | F[B-](F)(F)F.O=[N+]=O
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-[5-(3-Hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)-2-nitrophenyl]-acetamide | 534 mg, 32% | C(CCCCC)N1CC2C(C2C1)(C)C=1C=CC(=C(C1)NC(C)=O)[N+](=O)[O-] | C20H29N3O3
